US08455475B2
2-Chloro-N-[6-[8-(1-oxido-pyridin-1-ium-4-yl)-3,8-diazaspiro[4.5]decane-3-carbonyl]-2,3-dihydro-1H-inden-1-yl]-benzamide (H-129)
A stirred mixture of N-(6-(2,8-diazaspiro[4.5]decane-2-carbonyl)-2,3-dihydro-1H-inden-1-yl)-2-chlorobenzamide (350 mg, 0.799 mmol, 1 eq.), DIPEA (0.34 ml, 1.99 mmol, 2.5 eq.) and 4-chloropyridine (103 mg, 0.799 mmol, 1 eq.) in EtOH (7 ml) was heated at 130° C. for 72 h. The solvent was removed and the crude material was purified by column chromatography (silica gel, 3-5% MeOH/MC) to afford the final product as a light brown solid. Yield: 23% (100 mg, 0.19 mmol).

reactant | N-(6-(2,8-diazaspiro[4.5]decane-2-carbonyl)-2,3-dihydro-1H-inden-1-yl)-2-chlorobenzamide | 0.799 mmol, 350 mg, 1 eq. | C1N(CCC12CCNCC2)C(=O)C2=CC=C1CCC(C1=C2)NC(C2=C(C=CC=C2)Cl)=O | C25H28ClN3O2
reactant | DIPEA | 1.99 mmol, 0.34 ml, 2.5 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloropyridine | 0.799 mmol, 103 mg, 1 eq. | ClC1=CC=NC=C1 | C5H4ClN
reactant | EtOH | 7 ml | CCO | C2H6O
product | 2-Chloro-N-[6-[8-(1-oxido-pyridin-1-ium-4-yl)-3,8-diazaspiro[4.5]decane-3-carbonyl]-2,3-dihydro-1H-inden-1-yl]-benzamide | Yield: 23% | ClC1=C(C(=O)NC2CCC3=CC=C(C=C23)C(=O)N2CCC3(C2)CCN(CC3)C3=CC=[N+](C=C3)[O-])C=CC=C1 | C30H31ClN4O3
